US04954507
2-CHLOROMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE
A suspension of 23 g (62.3 mmol) of 2-hydroxymethyl-1,4-di-phenylmethyl piperazine, dihydrochloride in 79 ml thionyl chloride was heated 4 hours under reflux. The solution was cooled and excess thionyl chloride was evaporated under reduced pressure. The residue was crystallized in ethanol, dried with acetone to yield 19.5 g of title compound dihydrochloride M.P. 234° C. dec. A suspension of this dihydrochloride in 130 ml 1N aqueous sodium hydroxyde was stirred with 75 ml dichloromethane, the aqueous layer back washed three times with 75 ml dichloromethane. The organic layers were collected and dried over magnesium sulfate to give after evaporation 15.44 g (78%) of title compound.

reactant | 2-hydroxymethyl-1,4-di-phenylmethyl piperazine, dihydrochloride | 62.3 mmol, 23 g | Cl.Cl.OCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1
solvent | thionyl chloride | 79 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-CHLOROMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE | 19.5 g | ClCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23ClN2
